US07276606B2
3-Cyclopentyl-1-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-propan-1-one was prepared from phenanthridine, 3-cyclopentylpropionyl chloride, and indole according to GP 2. Yield, 5%. 1H-NMR (CD3OD): δ=0.80-0.99 (m, 2H), 1.27-1.70 (m, 9H), 2.60 (“t”, J≈7 Hz, 2H), 6.08 (s, 1H), 6.98-7.04 (m, 2H), 7.07 (td, J≈7 Hz, J=1.3 Hz, 1H), 7.12 (td, J=7.9 Hz, J=1.4 Hz, 1H), 7.21 (“d”, J≈7.4 Hz, 1H), 7.26 (“t”, J≈7.6 Hz, 1H), 7.36-7.42 (m, 3H), 7.45-7.52 (m, 1H), 7.78 (d, J=7.3 Hz, 1H), 7.90 (d, J=7.7 Hz, 1H), 7.97 (d, J=7.7 Hz, 1H); (+)-ESI-MS: m/z=421 [M+H]+, 304 [M-indole+H]+, 180.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3-cyclopentylpropionyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 3-Cyclopentyl-1-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-propan-1-one | C1(CCCC1)CCC(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C29H28N2O
